US05612340
100 mg (0.26 mmol) of N-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-(2-cyano-4-pyridyl)-2-pyrimidineamine and 1.28 ml (1.0M in THF, 1.28 mmol) of diisobutylaluminium hydride/THF solution are stirred for 1 h at -20°. After the addition of 2 ml of methanol, the reaction mixture is heated to RT and the reaction product is isolated by filtration. After concentration under reduced pressure using a rotovapor and chromatography [methylene chloride:methanol:ammonia (conc.)=95:5:]N-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-(2-aminomethyl-4-pyridyl)-2-pyrimidineamine is obtained; m.p. 64°-67°, FAB-MS: 394 (M+ +H).

reactant | N-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-(2-cyano-4-pyridyl)-2-pyrimidineamine | 0.26 mmol, 100 mg | FC(C(F)F)(OC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)C#N)F | C18H11F4N5O
reactant | diisobutylaluminium hydride THF | 1.28 mmol, 1.0M, 1.28 ml | [H-].C(C(C)C)[Al+]CC(C)C.C1CCOC1
solvent | methanol | 2 ml | CO | CH4O
product | N-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-(2-aminomethyl-4-pyridyl)-2-pyrimidineamine | FC(C(F)F)(OC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)CN)F | C18H15F4N5O
